US04085210
Ethyl chloroformate (3.6 g) was added to 5-(4-benzylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (3.13 g) in anhydrous benzene at room temperature, and the resulting mixture was heated under reflux for 5.5 hours. After cooling, the mixture was washed with a saturated aqueous sodium bicarbonate solution and water, dried and evaporated to afford 5-(4-ethoxycarbonylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene as oily material.

reactant | Ethyl chloroformate | 3.6 g | ClC(=O)OCC | C3H5ClO2
reactant | 5-(4-benzylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 3.13 g | C(C1=CC=CC=C1)N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C27H27NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(4-ethoxycarbonylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene | C(C)OC(=O)N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C23H25NO3
